### PR TITLE
Start proving DegenerateCDF properties

### PR DESCRIPTION
**Pull request by vainiovano**
My proof of `eq_diracProba_of_isDegenerate` still needs heavy cleanup, but the other proofs are starting to get somewhat readable. The `isDegenerate_iff` proof is still a bit ugly, though, so improvement ideas are welcome.

Part of: #12

### CODE REVIEW

File: ExtremeValueProject/DegenerateCDF.lean [hunk 1]
```diff
@@ -24,24 +24,115 @@ lemma isDegenerate_def (F : CumulativeDistributionFunction) :
...
+  unfold Set.indicator
+  split <;> rfl
 
 lemma cdf_diracProba_apply (x₀ x : ℝ) :
     (diracProba x₀).cdf x = if x < x₀ then 0 else 1 := by
-  -- `MeasureTheory.diracProba_apply` or ``MeasureTheory.diracProba_apply'`` should be the keys
-  sorry -- **Issue #12**
+  unfold ProbabilityMeasure.cdf FiniteMeasure.cdf
+  simp
+  rw [diracProba_apply' x₀ measurableSet_Iic]
```
Comment (kkytola) [inline ExtremeValueProject/DegenerateCDF.lean:128]: The lemma `diracProba_apply` is nicer to use than `diracProba_apply'` --- no measurability assumptions are needed. (The real line with its Borel sigma-algebra satisfies the `MeasurableSingletonClass` assumption; like the do the Borel sigma-algebras of any Hausdorff spaces). Less work for the user, more typeclass inference for the computer --- better! :wink:

```suggestion
  rw [diracProba_apply x₀]
```

File: ExtremeValueProject/DegenerateCDF.lean [hunk 2]
```diff
@@ -24,24 +24,115 @@ lemma isDegenerate_def (F : CumulativeDistributionFunction) :
...
+  unfold Set.indicator
+  split <;> rfl
 
 -- TODO: This probably also belongs to Mathlib? (Note slightly different hypotheses to the above.)
 lemma _root_.MeasureTheory.diracProba_apply {X : Type*} [MeasurableSpace X]
     [MeasurableSingletonClass X] (x₀ : X) (s : Set X) :
     (diracProba x₀) s = s.indicator 1 x₀ := by
-  sorry -- **Issue #12**
+  unfold diracProba
+  rw [ProbabilityMeasure.mk_apply, Measure.dirac_apply]
```
Comment (kkytola) [inline ExtremeValueProject/DegenerateCDF.lean:120]: As a tiny shortening, I would suggest combining the first unfold can be combined in the rewrite. (I'm slightly surprised that the second one cannot be combined...)

```suggestion
  rw [diracProba, ProbabilityMeasure.mk_apply, Measure.dirac_apply]
```

File: ExtremeValueProject/DegenerateCDF.lean [hunk 3]
```diff
@@ -24,24 +24,115 @@ lemma isDegenerate_def (F : CumulativeDistributionFunction) :
...
+    rw [h]
+    simp [lt_or_le]
 
 -- TODO: This probably belongs to Mathlib?
 lemma _root_.MeasureTheory.diracProba_apply' {X : Type*} [MeasurableSpace X] (x₀ : X)
     {s : Set X} (s_mble : MeasurableSet s) :
     (diracProba x₀) s = s.indicator 1 x₀ := by
-  sorry -- **Issue #12**
+  unfold diracProba
+  rw [ProbabilityMeasure.mk_apply, Measure.dirac_apply' x₀ s_mble]
```
Comment (kkytola) [inline ExtremeValueProject/DegenerateCDF.lean:111]: As a tiny shortening, I would suggest combining the first unfold can be combined in the rewrite. (I'm slightly surprised that the second one cannot be combined...)

```suggestion
  rw [diracProba, ProbabilityMeasure.mk_apply, Measure.dirac_apply' x₀ s_mble]
```

File: ExtremeValueProject/DegenerateCDF.lean [hunk 4]
```diff
@@ -24,24 +24,115 @@ lemma isDegenerate_def (F : CumulativeDistributionFunction) :
...
+  unfold ProbabilityMeasure.cdf FiniteMeasure.cdf
+  simp
+  rw [diracProba_apply' x₀ measurableSet_Iic]
+  unfold Set.indicator
+  simp only [mem_Iic, Pi.one_apply]
+  split
+  · rename_i h
+    simp [not_lt_of_ge h]
+  · rename_i h
+    simp [lt_of_not_ge h]
```
Comment (kkytola) [inline ExtremeValueProject/DegenerateCDF.lean:135]: A slightly shorter and probably more readable option (explicit about what the case split is):

```suggestion
by_cases h : x₀ ≤ x
  · simp [not_lt_of_ge h]
  · simp [lt_of_not_ge h]
```

Comment (kkytola) [inline ExtremeValueProject/DegenerateCDF.lean:135]: A slightly shorter and probably more readable alternative (explicit about what the case-split is):
```suggestion
by_cases h : x₀ ≤ x
  · simp [not_lt_of_ge h]
  · simp [lt_of_not_ge h]
```

File: ExtremeValueProject/DegenerateCDF.lean [hunk 5]
```diff
@@ -24,24 +24,107 @@ lemma isDegenerate_def (F : CumulativeDistributionFunction) :
...
+      norm_num
+
+    let x₀ := sInf {x : ℝ | F x = 1}
+    have one_after_x₀ : ∀ x > x₀, F x = 1 := by
+      intro x hx
+      apply le_antisymm
+      · exact apply_le_one F x
+      · obtain ⟨x₁, ⟨is_one : F x₁ = 1, lt_x⟩⟩ := exists_lt_of_csInf_lt reaches_one hx
+        rw [← is_one]
+        exact F.mono (le_of_lt lt_x)
```
Comment (kkytola) [inline ExtremeValueProject/DegenerateCDF.lean:80]: This suggestion below is just your original avoiding one unnecessary unfold and combining a few lines.

```suggestion
      obtain ⟨x₀, h⟩ := reaches_zero
      use x₀
      intro x (hx : F x = 1)
      exact (Monotone.reflect_lt F.mono (by norm_num [h, hx])).le
```

File: ExtremeValueProject/DegenerateCDF.lean [hunk 6]
```diff
@@ -24,24 +24,107 @@ lemma isDegenerate_def (F : CumulativeDistributionFunction) :
...
+
+    have bounded_below : BddBelow {x : ℝ | F x = 1} := by
+      unfold BddBelow
+      obtain ⟨x₀, h⟩ := reaches_zero
+      use x₀
+      intro a (ha : F a = 1)
+      apply le_of_lt
+      apply Monotone.reflect_lt F.mono
+      rw [h, ha]
+      norm_num
```
Comment (kkytola) [inline ExtremeValueProject/DegenerateCDF.lean:71]: The suggestion below is just your original with one unnecessary `unfold` removed and combining a few lines.

```suggestion
      obtain ⟨x₀, h⟩ := reaches_zero
      use x₀
      intro x (hx : F x = 1)
      exact (Monotone.reflect_lt F.mono (by norm_num [h, hx])).le
```

File: ExtremeValueProject/DegenerateCDF.lean (hunk 5 above)
Comment (kkytola) [inline ExtremeValueProject/DegenerateCDF.lean:80]: Again, the following is your original proof just combined to fewer lines.

(To be clear, fewer lines is not always better, but here I think your proof is organized into very nice self-explanatory and intuitive `have` statements which are given very descriptive names, and for that reason within the have statements it is ok to golf a bit aggressively.)

```suggestion
      apply le_antisymm (apply_le_one F x)
      obtain ⟨x₁, ⟨is_one : F x₁ = 1, lt_x⟩⟩ := exists_lt_of_csInf_lt reaches_one hx
      simpa [← is_one] using F.mono (le_of_lt lt_x)
```

File: ExtremeValueProject/DegenerateCDF.lean [hunk 7]
```diff
@@ -24,24 +24,107 @@ lemma isDegenerate_def (F : CumulativeDistributionFunction) :
...
+      · exact one_after_x₀ x x₀_lt
+      · rw [← x₀_eq]
+        exact one_at_x₀
+    · rename_i hx
+      rw [not_le] at hx
+      rw [← Iff.not_left (obs x)]
+      apply not_mem_of_lt_csInf hx bounded_below
+  · intro ⟨x₀, h⟩ x
+    rw [h]
+    simp [lt_or_le]
```
Comment (kkytola) [inline ExtremeValueProject/DegenerateCDF.lean:104]: And once again, the following differs in only trivial ways from your original proof. But it is a few lines shorter.

```suggestion
    simp only [indicator, mem_Ici]
    by_cases hx : x₀ ≤ x
    · simp only [hx, ↓reduceIte]
      cases' lt_or_eq_of_le hx with x₀_lt x₀_eq
      · exact one_after_x₀ x x₀_lt
      · rw [← x₀_eq]
        exact one_at_x₀
    · simp only [hx, ↓reduceIte]
      rw [← Iff.not_left (obs x)]
      apply not_mem_of_lt_csInf (not_le.mp hx) bounded_below
  · intro ⟨x₀, h⟩ x
    simp [h, lt_or_le]
```

**Comment by kkytola** [comment]
Thanks for this! You came up with a very good proof in very nicely organized style! I only left tiny comments which allow to shorten by a few lines.

File: ExtremeValueProject/DegenerateCDF.lean [hunk 8]
```diff
@@ -24,24 +24,107 @@ lemma isDegenerate_def (F : CumulativeDistributionFunction) :
...
+    have reaches_one : ∃ x : ℝ, F x = 1 := by
+      rw [← not_forall_not]
+      intro h
+      have F_zero : F.toFun = fun (x : ℝ) => 0 := by
+        funext x
+        simp only [obs, not_not] at h
+        exact h x
+      rw [F_zero, range_const] at approaches_one
+      have := IsLUB.unique approaches_one isLUB_singleton
+      norm_num at this
```
[the remark this answers is not in the document]
Comment (vainiovano) [reply ExtremeValueProject/DegenerateCDF.lean]: That's a nice cleanup! Thanks
